US05331034
1,3,5-tri (3,5-di-t-butyl-4-hydroxybenzyl) -2,4,6-tri-methylbenzene
calcium salt of monoethyl 3,5-di-t-butyl-4-hydroxy-benzylphosphonate.

reactant | calcium | [Ca] | Ca
reactant | monoethyl 3,5-di-t-butyl-4-hydroxy-benzylphosphonate | C(C)(C)(C)C=1C=C(CP(OCC)([O-])=O)C=C(C1O)C(C)(C)C
product | 1,3,5-tri (3,5-di-t-butyl-4-hydroxybenzyl) -2,4,6-tri-methylbenzene | C(C)(C)(C)C=1C=C(CC2=C(C(=C(C(=C2C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)C=C(C1O)C(C)(C)C | C54H78O3
